US09289419B2
Step-2: (R)-4-fluoro-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid
The title compound was prepared by a method substantially similar to that mentioned in step-5 and step-6 of example-3 using (R)-2-(5-Fluoro-2-methoxyphenyl)pyrrolidine hydrochloride (step-1) and Ethyl 5-bromo-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate (step-4 of example-248) to afford the product as white solid. MS (ESI): m/z 374.12 (M+H).

reactant | (R)-2-(5-Fluoro-2-methoxyphenyl)pyrrolidine hydrochloride | Cl.FC=1C=CC(=C(C1)[C@@H]1NCCC1)OC
reactant | Ethyl 5-bromo-4-fluoropyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=C(C=2N(C=C1)N=CC2C(=O)OCC)F | C10H8BrFN2O2
product | (R)-4-fluoro-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | FC=1C=2N(C=CC1N1[C@H](CCC1)C1=C(C=CC(=C1)F)OC)N=CC2C(=O)O | C19H17F2N3O3
